US04859700
Stage A: 2-(2,3-Dihydro-2-oxo-3-benzofuranyl)acetic acid benzyl ester
A mixture of 7.53 g of diisopropylamine in 150 ml of anhydrous tetrahydrofuran is cooled under a stream of nitrogen to -60° C. 46.6 ml of a 1.6M solution of n-butyllithium in hexane is added dropwise at this temperature. When the addition is complete, the temperature of the reaction medium is allowed to rise to 5° C., the mixture is stirred for 10 minutes at this temperature and cooled to -80° C. and a solution of 10 g of 2,3-dihydro-2-benzofuranone in 150 ml of anhydrous tetrahydrofuran is added dropwise. The mixture is maintained for 10 minutes at -80° C. and then for 10 minutes at -60° C. It is cooled again to -80° C. and a solution of 18.8 g of benzyl bromoacetate in 16.05 g of hexamethylphosphorotriamide is added. The temperature is allowed to rise to 20° C., and the reaction mixture is stirred for 1 hour at this temperature and hydrolyzed at 0° C. using 26 ml of saturated ammonium chloride solution. The medium is then poured into 2.5 l of 1% strength hydrochloric acid solution. The precipitate is filtered off and dissolved in 200 ml of benzene, the organic phase is washed with water and dried over anhydrous sodium sulfate and the solvent is evaporated off. The residue is recrystallized in petroleum ether.

reactant | diisopropylamine | 7.53 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2,3-dihydro-2-benzofuranone | 10 g | O1C(CC2=C1C=CC=C2)=O | C8H6O2
reactant | benzyl bromoacetate | 18.8 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | ammonium chloride | 26 ml | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphorotriamide | 16.05 g | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2-(2,3-Dihydro-2-oxo-3-benzofuranyl)acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CC1C(OC2=C1C=CC=C2)=O)=O | C17H14O4
